US04175946
To a solution of n-decyl N-trifluoroacetyl-N-(dichlorophosphonomethyl)glycinate (4.42 g, 0.01 mole) in 200 ml. of ether was added a solution of m-methylthiophenol (2.48 g, 0.02 mole) and triethylamine (2.02 g, 0.02 mole) in 50 ml. of ether. The resulting mixture was stirred for 16 hours at 20° C., then filtered. The filtrate was concentrated in vacuo to yield an oil which was chromatographed on silica gel (eluted with methylene chloride) to yield n-decyl N-trifluoroacetyl-N-(bis(m-methylphenylthio)phosphonomethyl)glycinate as an oil, nD27 =1.5267.

reactant | n-decyl N-trifluoroacetyl-N-(dichlorophosphonomethyl)glycinate | 0.01 mole, 4.42 g | FC(C(=O)N(CC(=O)OCCCCCCCCCC)CP(=O)(OCl)OCl)(F)F | C15H25Cl2F3NO6P
reactant | m-methylthiophenol | 0.02 mole, 2.48 g | CC=1C=C(C=CC1)S | C7H8S
reactant | triethylamine | 0.02 mole, 2.02 g | C(C)N(CC)CC | C6H15N
solvent | ether | CCOCC | C4H10O
product | n-decyl N-trifluoroacetyl-N-(bis(m-methylphenylthio)phosphonomethyl)glycinate | FC(C(=O)N(CC(=O)OCCCCCCCCCC)CP(=O)(OSC1=CC(=CC=C1)C)OSC1=CC(=CC=C1)C)(F)F | C29H39F3NO6PS2
